Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Chest pain, transfer s/p cardiac arrest  
 
Major Surgical or Invasive Procedure:
Intubation
RIJ
 
History of Present Illness:
Mr. ___ is an ___ man with history of CAD s/p RCA 
stent in ___, HFpEF, DM2, and AFib on Coumadin who was 
transferred after cardiac arrest.  

The patient was eating lunch with friends, when he appeared to 
have chest pain and dyspnea. He was taken to the emergency 
department where he had respiratory failure, followed by cardiac 
arrest. He had 2 minutes of CPR, with return of spontaneous 
circulation before defibrillation. On telemetry, he was noted to 
be in ventricular tachycardia. He was intubated, given an 
additional dose of vecuronium, and loaded with amiodarone 
followed by drip; however, he became hypotensive and the drip 
was stopped. He was also given 40 mg of Lasix for an elevated 
BNP of 4000. His troponin was elevated, and he was transferred 
intubated to ___.  

On arrival to the ED,
  
Initial vital signs: T 97.7, HR99, BP 89/65, RR18, O2 100% 
intubated  
Initial labs notable for:  
- Trop-T 1.68  
- WBC 28.2  
- Hb 13.4  
- Na 137, K 5.6, Cl 97, CO2 19, BUN 51, Cr 2.3, Gluc 623  
- Ca 7.5, Mg 2.0, P 6.6  
- INR 2.7  

EKG on arrival: ST elevation of aVR with depression in multiple 
leads concerning for proximal left disease.  

The patient was given  
- Heparin drip  
- ASA 600mg  
- Levophed infusion started at 0.06  
- Fentanyl and midazolam  
- Ticagrelor 180mg  

Cardiology was consulted, and he was taken to the cath lab. 
Cardiac catheterization was unremarkable with diffuse CAD 
without culprit lesion in LAD or LMCA. Notable for moderate OM 
and RCA disease. Access was femoral. Given no active cardiac 
ischemia, decision was made to transfer to MICU for other 
ongoing medical needs. 

Upon admission to the ICU, patient is intubated and sedated. 
After discussion with family they provided the history as above. 
Tells me that he has been having intermittent chest pressure for 
the past week, worse at lunch with his friend today. No 
infectious symptoms.     
 
ROS: Positive per HPI. Remaining 10 point ROS reviewed and 
negative.  
 
Past Medical History:
- CAD: RCA stent in ___  
- Diastolic CHF  
- Aortic stenosis  
- Pulmonary hypertension  
- Atrial fibrillation  
- Hypertension  
- Hyperlipidemia  
- DM on over 200 units of insulin daily (in ___ was on 100 units 
basal and 35-40 with each meal)  
- BPH  
- Polyarticular gout  
- Chronic Renal Failure  
- Seborhheic keratosis, seobrrheic dermatitis  
- Bilateral leg pain and bilateral foot numbness, MRI shows 
L1-L4 severe foraminal stenosis  
- L1-S1 laminectomy ___  
- Trigger finger release  
- B/l carpal tunnel release  
- Low back pain  
- Knee injury  
- Restless leg syndrome  
 
Social History:
___
Family History:
Unable to assess
 
Physical Exam:
ADMISSION EXAM
===============
VS: Reviewed per Metavision 
GENERAL: Intubated, sedated.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. pupils 
pinpoint. minimally reactive.   
NECK: Thick neck, superficial scratch with ooze 
CARDIAC: ___ systolic murmur, irregular.   
LUNGS: Mechanical breath sounds.  
ABDOMEN: Obese, Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.  
EXTREMITIES: right femoral dressing site with minimal blood, 
extremities with chronic venous stasis changes. No significant 
symeetric edema  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: Unable to assess 

DISCHARGE EXAM
==============
Expired 
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:50PM   ___ PTT-150* ___
___ 06:50PM   PLT COUNT-191
___ 06:50PM   NEUTS-85.6* LYMPHS-4.0* MONOS-7.0 EOS-0.0* 
BASOS-0.1 NUC RBCS-0.4* IM ___ AbsNeut-24.13* 
AbsLymp-1.12* AbsMono-1.97* AbsEos-0.00* AbsBaso-0.03
___ 06:50PM   WBC-28.2* RBC-4.61 HGB-13.4* HCT-42.9 MCV-93 
MCH-29.1 MCHC-31.2* RDW-19.2* RDWSD-64.1*
___ 06:50PM   CALCIUM-7.5* PHOSPHATE-6.6* MAGNESIUM-2.0
___ 06:50PM   cTropnT-1.68*
___ 06:50PM   estGFR-Using this
___ 06:50PM   GLUCOSE-623* UREA N-51* CREAT-2.3* SODIUM-137 
POTASSIUM-5.6* CHLORIDE-97 TOTAL CO2-19* ANION GAP-21*
___ 06:59PM   O2 SAT-94
___ 06:59PM   ___ PO2-92 PCO2-59* PH-7.22* TOTAL 
CO2-25 BASE XS--4
___ 08:04PM   ___ PO2-60* PCO2-58* PH-7.21* TOTAL 
CO2-24 BASE XS--5
___ 08:59PM   GLUCOSE-477* LACTATE-3.5* K+-4.6

STUDIES
=======
Cardiac Cath 
Impressions:
1. Diffuse CAD without culprit lesion in LAD or LMCA.
2. Moderate OM and RCA disease.
Recommendations
1. Medical management of DKA and possible aspiration.

TTE
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with regional systolic
dysfunction most c/w CAD (PDA distribution). Normal right 
ventricular cavity size with hypokinesis of the basal
half of the free wall. Severe aortic valve stenosis. Moderate to 
severe mitral regurgitation. Moderate mitral
regurgitation. Mild-moderate pulmonary artery systolic 
hypertension.
RECOMMEND: Though none is seen, if there is a concern for 
papillary muscle rupture, a TEE is suggested for
further evaluation of mitral valve.

 
Brief Hospital Course:
SUMMARY 
=======
Mr. ___ is an ___ man with history of CAD s/p RCA 
stent in ___, HFpEF, DM2, and AFib on Coumadin who was 
transferred after cardiac arrest, with EKG concerning for STEMI 
now s/p cardiac catheterization without culprit coronary lesion, 
admitted to the MICU for respiratory failure, volume overload 
and hyperglycemia, who suffered a recurrent PEA arrest and 
passed away.   

ACTIVE MEDICAL ISSUES 
=====================

# Recurrent PEA arrest.
# Shock: 
Patient presented to OSH with hypotension, in the setting of 
cardiac arrest, initially concerning for cardiogenic shock. Upon 
admission to ___ he underwent emergent cardiac catheterization 
which was not revealing of a culprit coronary lesion. He was 
admitted to the medical service and maintained on minimal 
vasopressor support overnight. He arrived intubated and was 
maintained on minimal sedation. he was started on broad spectrum 
antibiotics to cover for septic physiology. Central line was 
placed. Roughly 12 hours after admission he became acutely 
hypotensive. non invasive blood pressure recording were 
unreliable. Rhythm on telemetry and EKG demonstrated atrial 
fibrillation but there was concern for development of new LBBB. 
He underwent bedside TTE and recurrent cardiology evaluation. 
TTE was notable for mildly depressed LV function, RV free wall 
hypokinesis and severe aortic stenosis (previous TTE from ___ in partners system notable for mild aortic stenosis). He 
required escalating doses of 3 vasopressors with subsequent 
worsening in his atrial fibrillation. This correlated with 
worsening hypoxia despite increase in Fi)2 to 100%. Several 
hours later he suffered PEA arrest. Code blue was called in the 
ICU around 1100 and CPR was initiated for pulselessness. He had 
asystole on rhythm check and was given 7 rounds of epi and 3 
bicarb and was transcutaneously paced (had intermittent RBBB and 
LBBB this morning on telemetry) and he developed VT and was 
shocked 300 x1 and 360 x2 with conversion to a regular rhythm 
~80s. He was still pulseless and CPR was performed for a total 
of about 30 minutes prior to calling the
code. There was no mechanical activity with bedside v-scan 
throughout the code. The patient's partner (___) was 
in the room during the beginning of the code and at the bedside 
at the end. The code was called at 1137 am on ___.

OTHER MEDICAL ISSUES 
====================
# Acute hypoxic respiratory failure. Patient was intubated at 
the OSH in the setting of cardiac arrest. CXR was notable for 
prominent bilateral pulmonary edema likely in the setting of 
known HFpEF, worsened in the setting of cardiac arrest. 
Respiratory arrest could have been driven largely by fluid, 
flash pulmonary edema event. Less likely to represent PE given 
therapeutic anticoagulation on warfarin at the time of 
admission. He remained sedated and intubated during admission. 
He became increasingly hypoxic despite 100% FiO2 and suffered 
PEA arrest as above.  

# Concern for STEMI 
# S/p cardiac arrest  
# CAD s/p RCA stent in ___:  
Patient developed chest pain and dyspnea, presented to OSH where 
he had a VT arrest with ROSC s/p 2 minutes of compressions (no 
defibrillation). His troponin elevated to 1.68, and EKG showed 
ST elevation of aVR with depression in multiple leads concerning 
for proximal left disease. Upon admission to ___ he was taken 
emergently for cardiac cath without culprit coronary lesions. He 
was transferred to the MICU following. Cardiology followed and 
was involved during the remainder of his hospitalization as 
above. 

# Acute on chronic HFpEF: Patient with history of diastolic 
heart failure and was admitted with elevated BNP and severe 
pulmonary edema on CXR c/f acute on chronic HFpEF. His last TTE 
in partners system showed EF 66% and mild aortic stenosis. 
Repeat TTE during admission showed mildly depressed LV function, 
RV free wall hypokinesis and severe aortic stenosis. Duiresis 
was initiated but had not yet been started at the time of the 
code as above. 
 
# Hyperglycemia/DKA. Patient presented with serum glucose 623, 
with outpatient regimen of 90+ units Lantus and high dose 
insulin sliding scale. Ketones and AGMA on admission were 
concerning for DKA. He was treated with an inuslin drip with 
improvement in his blood sugars. 

# ___ on CKD  
# Hyperkalemia:  
Cr 2.3 on admission, recent baseline Cr 1.8-1.9. Likely 
pre-renal in the setting of cardiac arrest and hypotension.

# Atrial fibrillation: On warfarin. INR 2.7 on admission. Held 
metoprolol in the setting of shock. Warfarin was continued. 
Digoxin was held in the setting of poor renal clearance. 

CHRONIC ISSUES:  
===============  
# Pulmonary hypertension. Held Sildenafil 20mg given hypotension
# Hypertension. Held home medications as above 
# Hyperlipidemia. Continued statin   
# Polyarticular gout: On allopurinol and prednisone 5mg. Held 
both in the setting ___ and hypotension   
# Chronic pain: Held given sedation. Home is Lyrica 50mg BID  
# Restless legs: Held pramipexole 0.25mg BID  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO DAILY 
2. ALPRAZolam 0.5-1 mg PO ONCE:PRN before procedures 
3. Atorvastatin 40 mg PO QPM 
4. Bumetanide 4 mg PO BID 
5. Digoxin 0.125 mg PO DAILY 
6. dulaglutide 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
7. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Mild 
8. Glargine 95 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Continuing home med

9. Metolazone 5 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Potassium Chloride 60 mEq PO BID 
12. Pramipexole 0.25 mg PO BID 
13. PredniSONE 5 mg PO DAILY 
14. Pregabalin 50 mg PO DAILY 
15. Sildenafil 20 mg PO TID 
16. Warfarin 5 mg PO 4X/WEEK (___) 
17. Warfarin 10 mg PO 3X/WEEK (___) 
18. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___